US06489344B1
[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]{2-[(5-trifluoromethyl(2-pyridyl))amino]ethyl}amine was prepared from [4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-ylethylamine and 2-chloro-5-trifluoromethylpyridine in accordance with the procedure described above for the preparation of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-ylethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1C=NC=C1)CCN | C15H13Cl2N5
reactant | 2-chloro-5-trifluoromethylpyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])OC | C21H18Cl2N8O3
product | [4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]{2-[(5-trifluoromethyl(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)C(F)(F)F | C21H16Cl2F3N7
